US07855193B2
3-(6-(5-cyclopentylbenzofuran-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)propanoic acid (Step 4 in Scheme 8)
To a stirring solution of tert-butyl 3-(6-(5-cyclopentylbenzofuran-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)propanoate (25 mg, 0.056 mmole) in CH2Cl2 (0.5 ml) was added TFA (0.5 ml). The mixture was stirred at room temperature for 3 hours. Under reduced pressure, solvents and excess of TFA were removed affording a yellow oil which was rinsed with a mixture of CH2Cl2/Hexane (1:4) followed by ether. The solvents were removed under vacuum to give the title compound (19 mg, 90%). 1H NMR (400 MHz, CD3OD) δ 7.82 (m, 2H), 7.47 (s, 1H), 7.40 (d, 1H), 7.30 (d, 1H), 7.20 (d, 1H), 7.19 (s, 1H), 4.54 (br, 2H), 3.69 (br, 2H), 3.60 (dd, 2H), 3.28 (m, 2H), 3.10 (m, 1H), 2.96(dd, 2H), 2.10 (m, 2H), 1.85 (m, 2H), 1.74 (m, 2H), 1.65 (m, 2H). MS (ESI) m/z: Calculated: 389.2; Observed: 390.20 (M++1).

reactant | tert-butyl 3-(6-(5-cyclopentylbenzofuran-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)propanoate | 0.056 mmole, 25 mg | C1(CCCC1)C=1C=CC2=C(C=C(O2)C=2C=C3CCN(CC3=CC2)CCC(=O)OC(C)(C)C)C1 | C29H35NO3
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 3-(6-(5-cyclopentylbenzofuran-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)propanoic acid | 19 mg, 90% | C1(CCCC1)C=1C=CC2=C(C=C(O2)C=2C=C3CCN(CC3=CC2)CCC(=O)O)C1 | C25H27NO3
